US08071807B2
Step 2: [3-(4-Amino-2-phenylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
[4-Methoxy-3-(4-nitro-2-phenylsulfanylmethyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.4 g, 0.9 mmol) and tin(II) chloride (0.6 g, 2.7 mmol) were combined in EtOH (20 mL) and stirred overnight at 70° C. CH2Cl2, H2O, and sodium bicarbonate were added, and the mixture was filtered through Celite. The organic layer was separated and concentrated to give the title compound.

reactant | [4-Methoxy-3-(4-nitro-2-phenylsulfanylmethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.9 mmol, 0.4 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC1=CC=CC=C1)=O | C24H23NO6S
reactant | tin(II) chloride | 2.7 mmol, 0.6 g | [Sn](Cl)Cl
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | O | H2O
product | [3-(4-Amino-2-phenylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CSC1=CC=CC=C1)=O | C24H25NO4S
